Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___
 
___ Complaint:
Lip swelling
 
Major Surgical or Invasive Procedure:
___: ED machidascope evaluation, showing right sided tongue and 
uvular edema without vocal cord or arytenoid edema.

 
History of Present Illness:
___ year old male with history of HTN, prostate cancer, BPH 
presenting with right sided tongue/uvula swelling admitted for 
airway monitoring. 

He was seen by his PCP two weeks ago for tongue swelling. At 
that time he reported that it had happened twice before. He has 
never been intubated or hospitalized for this tongue swelling 
before. His PCP advised him to stop lisinopril; he reports that 
he hasn't taken it in 2 weeks. He denies chest pain, shortness 
of breath, nausea, vomiting, diarrhea, abdominal pain, body 
itching, rashes, difficulty swallowing or difficulty to 
breathing.

Today, he was reportedly in his usual state of health and 
returning home from his day program, where he ate some cookies 
(unclear if there were nuts in them). He also reports that he 
had some salad and rice prior to the episode. At home he started 
to experience tongue swelling and difficulty speaking but 
otherwise did not have trouble breathing although he did feel 
that his breathing was "slow".

In the ED: 
- VS: 96.9 F, HR ___, BP 140/100, RR 16, 98% RA  
- exam significant for: RRR. CTAB. NTND abd. AAOx3. 1+ pitting 
edema in the ___ bilaterally. On macheidoscope evaluation, there 
is right sided tongue and uvular edema without vocal cord or 
arytenoid edema. In no acute distress.
- Labs significant for: WBC 3.4, Hgb 12.9, plts 176, lytes 
within normal range, Cr 1.1, trop <0.01, INR 1.0 
- EKG significant for: TWI in leads I, V2-V6, normal sinus 
rhythm
- Patient received: methylpred 125 mg, IV famotidine x2, IV 
Benadryl, IM epinephrine   

On arrival to the MICU, patient reports that his breathing feels 
at his baseline and the swelling has improved a little. He was 
hypertensive on arrival to 170s/100 and without intervention his 
BP came down to 149/66 overnight. 
  
REVIEW OF SYSTEMS: + per HPI, otherwise 10-point ROS negative
 
Past Medical History:
Hypertension
Congestive Heart Failure
Prostate Cancer
BPH
Obesity
 
Social History:
___
Family History:
Non-contributory; no known h/o angioedema 
 
Physical Exam:
Admission exam:
 VITALS:  98.2F, 169/96 HR 69, RR17, 98% on RA
 GENERAL: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear. No lip or 
tongue swelling noted. Dentures in place both upper and lower   
 NECK: supple, JVP not elevated, no LAD  
 LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
 ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
 EXT: Warm, well perfused, 2+ pulses, no clubbing, trace pitting 
edema bilaterally.

Discharge exam:
VITALS:  98.2F, 121/88 HR 70, RR17, 98% on RA
GENERAL: Alert, oriented to self and date, not to place, no 
acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear. No lip or tongue 
swelling noted. Dentures in place both upper and lower   
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, trace pitting 
edema bilaterally.

 
Pertinent Results:
Admission and notable labs:
___ 07:00PM BLOOD WBC-3.4* RBC-4.35* Hgb-12.9* Hct-39.3* 
MCV-90 MCH-29.7 MCHC-32.8 RDW-13.0 RDWSD-42.6 Plt ___
___ 07:00PM BLOOD ___ PTT-28.9 ___
___ 07:00PM BLOOD Glucose-104* UreaN-11 Creat-1.1 Na-142 
K-4.2 Cl-105 HCO3-26 AnGap-11
___ 03:35AM BLOOD ALT-23 AST-23 LD(LDH)-207 AlkPhos-59 
TotBili-1.0
___ 07:00PM BLOOD cTropnT-<0.01
___ 01:46AM BLOOD cTropnT-<0.01
___ 07:00PM BLOOD Calcium-9.0 Phos-2.8 Mg-2.0
___ 03:35AM BLOOD Albumin-4.4 Calcium-9.2 Phos-2.7 Mg-2.0

DISCHARGE LABS
___ 03:35AM BLOOD WBC-4.1 RBC-4.41* Hgb-13.1* Hct-39.3* 
MCV-89 MCH-29.7 MCHC-33.3 RDW-13.0 RDWSD-42.5 Plt ___
___ 03:35AM BLOOD Glucose-130* UreaN-13 Creat-1.0 Na-141 
K-4.4 Cl-103 HCO3-25 AnGap-13

IMAGING: NONE
EKG significant for: TWI in leads I, V2-V6, normal sinus rhythm

MICROBIOLOGY: NONE
 
Brief Hospital Course:
___ year old male with history of HTN, prostate cancer, BPH 
presenting with right sided tongue/uvula swelling admitted for 
airway monitoring. 
 
#Tongue/uvular swelling: concerning for angioedema, especially 
given recent history of stopping lisinopril and lack of other 
histaminergic reactions like itching, hives, and rapid 
progression. The risk of ACEI induced angioedema can persist for 
months after stopping an ACEI. Other considerations would be a 
new food allergy, familial angioedema. No infectious signs or 
symptoms of uvulitis.  In the ED, patient had ___:  
machidascope evaluation, showing right sided tongue and uvular 
edema without vocal cord or arytenoid edema. He received 
methylpred 125 mg, IV famotidine x2, IV Benadryl, IM epinephrine 
although symptoms appeared to be mild and resolving prior to all 
meds being received. Regardless, he was admitted to ICU for 
airway monitoring and remained on RA, maintaining his 
secretions, and able to tolerate a diet prior to discharge after 
<24 hours. Outpatient follow up with allergy was arranged. 

#T wave inversions: seen incidentally on EKG, new from prior. 
Troponins negative x2. Patient not endorsing chest pain. Has 
mild hypertrophy on EKG which may be contributing. No evidence 
for new bundle branch block, pericarditis, PE. Not likely to be 
related to above tongue/uvula swelling.  As a transitional 
issue, may consider outpatient stress test. Continued home 
aspirin, statin, and metoprolol 

#Anemia: noted this admission without clear baseline. As a 
transitional issue would consider iron studies.

# HTN: now off lisinopril given concern for drug-induced 
angioedema as above. Started on amlodipine 5mg for BP control. 

#BPH: continued home tamsulosin 

#Diastolic congestive heart failure - No ECHO on file or notes 
from outpatient cardiology. Continued home furosemide 

TRANSITIONAL ISSUES: 
==================== 
[] normocytic anemia seen on labs; consider age appropriate 
cancer screen + Fe studies
[] TWI seen on EKG; neg trops x2; unclear if this is new or old. 
please consider outpatient stress test 
[] asthma/allergy follow up given multiple episodes of oral 
swelling 
[] initiated on amlodipine 5mg this admission for HTN 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
2. Ketoconazole 2%  1 Appl TP BID 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Omeprazole 20 mg PO BID 
5. Sildenafil 100 mg PO PRN one tablet(s) by mouth one as needed 
for hour before sex works best on empty stomach 
6. Aspirin 81 mg PO DAILY 
7. Vitamin D ___ UNIT PO DAILY 
8. Acetaminophen 650 mg PO TID:PRN Pain - Mild 
9. Furosemide 40 mg PO DAILY 
10. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Acetaminophen 650 mg PO TID:PRN Pain - Mild  
3.  Aspirin 81 mg PO DAILY  
4.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  
5.  Furosemide 40 mg PO DAILY  
6.  Ketoconazole 2%  1 Appl TP BID  
7.  Metoprolol Succinate XL 50 mg PO DAILY  
8.  Omeprazole 20 mg PO BID  
9.  Sildenafil 100 mg PO PRN one tablet(s) by mouth one as 
needed for hour before sex works best on empty stomach  
10.  Tamsulosin 0.4 mg PO QHS  
11.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Lip, tongue, and uvula swelling

Secondary:
Hypertension

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Estimado Sr. ___,

Fue un placer ___. Usted fue admitido en ___ 
Centro Médico ___ por ___ hinchazón ___ 
___ y úvula.

___ evaluó en ___ servicio de ___ y ___ 
varios medicamentos para ayudar a reducir ___ hinchazón y una 
posible ___. Usted fue ___ de cuidados 
intensivos para ___ vía aérea, ___ hinchazón mejoró y 
usted no tenía falta de aire. ___ reacción puede ser ___ resultado 
de tomar lisinopril hace unas semanas y usted NO debe tomar este 
medicamento.

Por favor ___ atención médica urgente si experimenta una 
nueva hinchazón, dificultad para respirar o erupción. Por favor, 
siga con las citas que ___ enumeran a continuación, incluso con 
___ y especialista en inmunología. Una nueva medicación 
para ___ tensión arterial ___, amlodipine fue comenzada - por 
favor continúe tomando esto.

___,
___ de atención de ___
 
Followup Instructions:
___